US05273986
Sodium borohydride (2.3 g) was added in portions over a 10 min period to an ice cold solution of 6.3 g of 2-cyclobutyl-4-thiazolecarboxylic acid ethyl ester in 100 ml of ethyl alcohol. The ice bath was removed and the reaction mixture stirred at room temperature for 30 hr during which an additional 0.46 g of sodium borohydride was added. The reaction mixture was then diluted with 200 ml of ice water and extracted with ethyl ether. The combined extracts were washed with water, dried (MgSO4) and condensed in vacuo to yield 5.1 g of 2-cyclobutyl-4-thiazole methanol as an oil.

reactant | Sodium borohydride | 2.3 g | [BH4-].[Na+]
reactant | 2-cyclobutyl-4-thiazolecarboxylic acid ethyl ester | 6.3 g | C(C)OC(=O)C=1N=C(SC1)C1CCC1 | C10H13NO2S
solvent | ethyl alcohol | 100 ml | C(C)O | C2H6O
product | 2-cyclobutyl-4-thiazole methanol | 5.1 g | C1(CCC1)C=1SC=C(N1)CO | C8H11NOS
